***********************************************************
*
* BAT54SW
*
* Nexperia
*
* Schottky barrier double diodes
* IFmax = 200mA
* VRmax = 30V
* VFmax = 800mV    @ IF = 100mA
* IRmax = 2µA      @ VR = 25V
* 
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT323
*
* Package Pin 1: Anode             D1
* Package Pin 2: Anode             D2
* Package Pin 3: Cathode;Cathode   D1;D2
*
*
* Extraction date (week/year): #
* Simulator: SPICE2
*
***********************************************************
*
* The resistor R1  
* does not reflect physical devices 
* but improve only modeling in the 
* reverse mode of operation.
*
.SUBCKT BAT54SW 1 2
R1 1 2 3.6E+07 
D1 1 2 BAT54SW 
*
.MODEL BAT54SW D 
+    IS = 2.117E-07 
+    N = 1.016 
+    BV = 36 
+    IBV = 1.196E-06 
+    RS = 2.637 
+    CJO = 1.114E-11 
+    VJ = 0.2013 
+    M = 0.3868 
+    FC = 0 
+    TT = 7E-9 
+    EG = 0.69 
+    XTI = 2
.ENDS
*